US07842688B2
l) 6-(Tetrahydropyran-2-yloxymethyl)-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one
The solution of 5.50 g of 6-(tetrahydropyran-2-yloxymethyl)-4H-benzo[1,4]oxazin-3-one and 100 ml of N,N-dimethylformamide-tetrahydrofuran (1:1) is cooled to 0° C., admixed with 0.800 g of sodium hydride dispersion (60%) and stirred over 30 minutes. The mixture is admixed with 7.90 g of (2-iodoethoxy)triisopropylsilane and stirred at room temperature for a further 16 hours. The reaction mixture is poured onto ice-water (150 ml) and extracted with ethyl acetate (3×150 ml). The organic phases are washed successively with aqueous sodium hydrogencarbonate solution (1×100 ml), water (100 ml) and brine (100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.57 (1:1 EtOAc-heptane); Rt=6.71.

reactant | 6-(tetrahydropyran-2-yloxymethyl)-4H-benzo[1,4]oxazin-3-one | 5.50 g | O1C(CCCC1)OCC=1C=CC2=C(NC(CO2)=O)C1 | C14H17NO4
reactant | sodium hydride | 0.800 g | [H-].[Na+]
reactant | (2-iodoethoxy)triisopropylsilane | 7.90 g | ICCO[Si](C(C)C)(C(C)C)C(C)C | C11H25IOSi
solvent | N,N-dimethylformamide tetrahydrofuran | 100 ml | CN(C=O)C.O1CCCC1
product | 6-(Tetrahydropyran-2-yloxymethyl)-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one | O1C(CCCC1)OCC=1C=CC2=C(N(C(CO2)=O)CCO[Si](C(C)C)(C(C)C)C(C)C)C1 | C25H41NO5Si
